US07402680B2
1-Butyl-3-p-tolyl-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine
The title compound (292.8 mg) was prepared from 0.56 g of 4-oxo-piperidine-1-carboxylic acid tert-butyl ester, 260 μL of butylamine, and 0.45 g of 1-methyl-4-(2-nitro-vinyl)-benzene. MS (ESI): exact mass calculated for C18H24N2, 268.19; found, m/z 269.2 [M+H]+. 1H NMR (500 MHz, CD3OD): 7.20-7.14 (m, 4H), 6.93 (s, 1H), 4.32 (s, 2H), 3.88 (t, J=7.1 Hz, 2H), 3.56 (t, J=6.0 Hz, 2H), 3.00 (t, J=6.0 Hz, 2H), 2.32 (s, 3H), 1.77-1.70 (m, 2H), 1.41-1.33 (m, 2H), 0.97 (t, J=7.4 Hz, 3H).

reactant | 4-oxo-piperidine-1-carboxylic acid tert-butyl ester | 0.56 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
reactant | 1-methyl-4-(2-nitro-vinyl)-benzene | 0.45 g | CC1=CC=C(C=C1)C=C[N+](=O)[O-] | C9H9NO2
solvent | butylamine | 260 μL | C(CCC)N | C4H11N
product | 1-Butyl-3-p-tolyl-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine | 292.8 mg | C(CCC)N1C=C(C=2CNCCC21)C2=CC=C(C=C2)C | C18H24N2
